US05624917
A solution of tetraethyl (E,E)-farnesylaminomethylenebisphosphonate (2.42 g) in ethanol (25 ml) was added to a solution of sodium hydroxide (0.40 g) in ethanol (25 ml). The mixture was stirred under reflux for 4 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in water (5.0 ml). The solution was subjected to ion-exchange chromatography [Amberlite CG-50 (H+ -type)] to obtain (E,E)-farnesylaminomethylenebisphosphonic acid diethyl ester disodium salt (0.75 g, 29%). Colorless powder, mp: 116°-118° C. Elemental Analysis for C20H37NO6P2Na2.5/2H2O: Calcd.: C, 44.45; H, 7.83; N, 2.59 Found: C, 44.08; H, 7.60; N, 2.59

reactant | tetraethyl (E,E)-farnesylaminomethylenebisphosphonate | 2.42 g | C(\C=C(/C)\CC\C=C(/C)\CCC=C(C)C)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C24H47NO6P2
reactant | sodium hydroxide | 0.40 g | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (E,E)-farnesylaminomethylenebisphosphonic acid diethyl ester disodium salt | 0.75 g, 29% | [Na+].[Na+].C(C)OP(OCC)(=O)C(P([O-])([O-])=O)NC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | InChI=1S/C20H39NO6P2.2Na/c1-7-26-29(25,27-8-2)20(28(22,23)24)21-16-15-19(6)14-10-13-18(5)12-9-11-17(3)4;;/h11,13,15,20-21H,7-10,12,14,16H2,1-6H3,(H2,22,23,24);;/q;2*+1/p-2/b18-13+,19-15+;;
